US07651687B2
3-(8-Chloro-1-iodoimidazo[1,5-a]pyrazin-3-yl)-1-methylcyclobutanol
3-(8-Chloroimidazo[1,5-a]pyrazin-3-yl)-1-methylcyclobutanol (2.20 g, 9.26 mmol) and NIS (2.71 g, 12.0 mmol) were dissolved in DMF (36.6 mL, 0.472 mol) and stirred at 60° C. for 4 h. The mixture was then concentrated in vacuo and the residue reconstituted in EtOAc (100 mL). This solution was washed with sodium bicarbonate (2×20 mL) and these washes back-extracted with EtOAc (2×20 mL). The organic layers were combined, dried with sodium sulfate, filtered and concentrated in vacuo. The crude solid was purified by chromatography over silica gel eluting with 1:1 EtOAc:hexanes to afford desired product. 1H-NMR (400 MHz, CDCl3) δ ppm 1.53 (s, 3 H), 2.72-2.59 (m, 4 H), 3.37-3.29 (m, 1 H), 7.32 (d, J=4.91 Hz, 1 H) and 7.60 (d, J=4.96 Hz, 1 H). MS (ES+): m/z 363.95 and 365.91 [MH+].

reactant | 3-(8-Chloroimidazo[1,5-a]pyrazin-3-yl)-1-methylcyclobutanol | 9.26 mmol, 2.20 g | ClC=1C=2N(C=CN1)C(=NC2)C2CC(C2)(O)C | C11H12ClN3O
reactant | NIS | 12.0 mmol, 2.71 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | DMF | 0.472 mol, 36.6 mL | CN(C)C=O | C3H7NO
product | 3-(8-Chloro-1-iodoimidazo[1,5-a]pyrazin-3-yl)-1-methylcyclobutanol | ClC=1C=2N(C=CN1)C(=NC2I)C2CC(C2)(O)C | C11H11ClIN3O
